US08486952B2
3-methoxy-4-(1-methyl-1H-pyrazol-4-yl)aniline
A DMF solution of diethyl 1-methyl-1H-pyrazol-4-ylboronate, 4-bromo-3-methoxy nitrobenzene together with Pd(dppf) and K2CO3 were heated at reflux overnight. The product obtained was reduced with Fe in MeOH/ammonium chloride to provide the title compound. LC-MS (M+H)+=204.2. 1H NMR (400 MHz, DMSO-d6): δ ppm 7.84 (1H, s), 7.66 (1H, s), 7.19 (1H, J=8.2 Hz, d), 6.29 (1H, s), 6.18 (1H, J=2.0, 8.2 Hz, dd), 5.31 (2H, br s), 3.80 (3H, s), 3.75 (3H, s).

reactant | DMF | CN(C)C=O | C3H7NO
reactant | diethyl 1-methyl-1H-pyrazol-4-ylboronate | CN1N=CC(=C1)B(OCC)OCC | C8H15BN2O2
reactant | 4-bromo-3-methoxy nitrobenzene | BrC1=C(C=C(C=C1)[N+](=O)[O-])OC | C7H6BrNO3
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH ammonium chloride | CO.[Cl-].[NH4+]
catalyst | Fe | [Fe] | Fe
product | 3-methoxy-4-(1-methyl-1H-pyrazol-4-yl)aniline | COC=1C=C(N)C=CC1C=1C=NN(C1)C | C11H13N3O
